US07763639B2
1-BROMO-2-METHOXY-3-(TRIFLUOROMETHYL)-BENZENE
To a solution of 3-bromo-2-fluorobenzotrifluoride (1.0 g, 4.1 mmol) in methanol (5 ml) was added a solution of sodium methoxide in methanol (30%, 0.73 ml, 4.1 mmol). The mixture was heated under microwave radiation to 150° C. for 10 min. The reaction mixture was poured into water and extracted with ethylacetate (3×50 ml). The combined organic phases was dried (MgSO4), filtered and evaporated to dryness to give the title compound (0.89 g). MS m/z (rel. intensity, 70 eV) 256 (M+, 87), 254 (M+, 89), 239 (26), 211 (24), 132 (bp).

reactant | 3-bromo-2-fluorobenzotrifluoride | 4.1 mmol, 1.0 g | BrC=1C(=C(C=CC1)C(F)(F)F)F | C7H3BrF4
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 4.1 mmol, 0.73 ml | CO | CH4O
product | 1-BROMO-2-METHOXY-3-(TRIFLUOROMETHYL)-BENZENE | 0.89 g | BrC1=C(C(=CC=C1)C(F)(F)F)OC | C8H6BrF3O
